US07423059B2
To a solution of N-Boc-2,5-diphenylpyrrole (1.027 g, 3.22 mmol) in methanol (80 ml) was added palladium (5%) on activated carbon (0.250 g). The reaction mixture was hydrogenated (10 psi) for 1.5 hours. Filtration and evaporation to dryness afforded N-Boc-2,5-diphenylpyrrolidine (1.01 g, 97%). 1H-NMR (CDCl3): δ ppm 7.20-7.60 (m, ArH, 10H), 5.0 (in, ArCH, 2H), 2.45 (m, CH2, 2H), 1.17 (s, CH3, 9H)

reactant | N-Boc-2,5-diphenylpyrrole | 3.22 mmol, 1.027 g | C(=O)(OC(C)(C)C)N1C(=CC=C1C1=CC=CC=C1)C1=CC=CC=C1 | C21H21NO2
solvent | methanol | 80 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | N-Boc-2,5-diphenylpyrrolidine | 1.01 g, 97% | C(=O)(OC(C)(C)C)N1C(CCC1C1=CC=CC=C1)C1=CC=CC=C1 | C21H25NO2
